US04339614
9.4 g (0.1 mol) phenol is dissolved in 100 ml of anhydrous hydrogen fluoride and while keeping the solution at about 0° C., 2 g (0.05 mol) propylene was introduced and stirring continued for 15 minutes. The reaction mixture is then saturated with boron trifluoride and heated to 100° C. for 30 minutes. After workup, 59% isopropylphenol is obtained, containing 99% meta isomer, together with 31% phenol and some diisopropylphenols.

reactant | phenol | 0.1 mol, 9.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | propylene | 0.05 mol, 2 g | C=CC | C3H6
reactant | boron trifluoride | B(F)(F)F | BF3
solvent | hydrogen fluoride | 100 ml | F | FH
product | isopropylphenol | 59% | C(C)(C)C1=C(C=CC=C1)O | C9H12O
